Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Comtrex Cold-Cough
 
Attending: ___.
 
Chief Complaint:
abdominal pain s/p ERCP
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
___ male with the past medical history of gallstone 
pancreatitis s/p CCY, possible ___, and persistently 
abnormal LFT's, who presented for an ERCP for evaluation of 
abnormal LFTs and recurrent abdominal pain.  He had previously 
underwent an ERCP with metal stent x 2 in ___ for removal of 
benign frond-like lesion at ampulla. He did well for awhile and 
due to recurrent abdominal pain and mild LFT elevation, was 
referred for an EUS with ERCP today.  

The EUS showed changes suggestive, but not diagnostic for 
chronic pancreatitis.  The ERCP demonstrated ampulla changes 
consistent with prior sphincterotomy.  This was widely patent. 
Cholangiogram was normal.  A balloon pull-through was performed, 
and this yielded small amount of sludge.  None of these findings 
were felt to explain patient's abdominal pain or elevation in 
liver enzymes was noted.

Post-procedure the patient had urinary retention so a foley was 
placed.  No other complaints or concerns.  No pain or vomiting, 
mild nausea currently.  +diarrhea x 2 weeks.  No chest pain, 
SOB, or palps. 

ROS: as above otherwise 10point ROS negative 
 
Past Medical History:
___ esophagitis, GERD
gallstone pancreatitis s/p CCY
 
Social History:
___
Family History:
Negative for colorectal and other HNPCC-related cancers.

 
Physical Exam:
-Vitals: reviewed, afebrile
-General: NAD, laying comfortably in bed
-HEET: moist mucus membranes, atruamtic, normocephalic
-Cardio: RRR, no murmur
-Pulm: clear b/l, no wheeze
-GI: soft, nontender, nondistended, bowel sounds present
-GU: no foley
-Neuro: no focal neurological deficits, CN ___ grossly intact
-Psych: appropriate mood and affect
-Skin: no rash or jaundice 
 
Pertinent Results:
ADMISSION LABS
___ 09:30AM BLOOD WBC-6.2 RBC-4.83 Hgb-14.7 Hct-42.7 MCV-88 
MCH-30.4 MCHC-34.4 RDW-12.4 RDWSD-40.5 Plt ___
___ 09:30AM BLOOD ___ PTT-29.9 ___
___ 09:30AM BLOOD UreaN-13 Creat-0.8 Na-139 K-4.6 Cl-104 
HCO3-23 AnGap-12
___ 09:30AM BLOOD ALT-167* AST-93* AlkPhos-95 Amylase-97 
TotBili-0.8
___ 09:30AM BLOOD Lipase-90*

DISCHARGE LABS
___ 07:25AM BLOOD WBC-6.8 RBC-4.66 Hgb-14.1 Hct-39.9* 
MCV-86 MCH-30.3 MCHC-35.3 RDW-12.3 RDWSD-38.2 Plt ___
___ 07:25AM BLOOD Glucose-113* UreaN-7 Creat-0.9 Na-141 
K-4.2 Cl-105 HCO3-28 AnGap-8*
___ 07:25AM BLOOD ALT-521* AST-252* AlkPhos-133* 
TotBili-1.7*

IMAGING/STUDIES
-ERCP ___: successful ERCP with no evidence of stones or 
stricture 
-EUS ___: successsful EUS evaluation with findings suggestive 
but not definitive of early chronic pancreatitis 
 
Brief Hospital Course:
___ h/o gallstone pancreatitis s/p cholecystectomy and ___ 
esophagus was admitted for monitoring after ERCP.

1. Intermittent abdominal pain and transaminitis/cholestasis h/o 
gallstone pancreatitis s/p cholecystectomy and ampullary mass
-Patient previously with gallstone pancreatitis s/p 
cholecystectomy and ampullary mass s/p ERCP with removal as 
sources of pain.  He developed intermittent abdominal pain and 
LFT abnormalities prompting ERCP.  ERCP/EUS grossly normal 
without explanation of pain.  Slight increase in LFT post ERCP 
with plan for outpatient monitoring by PCP. 

Chronic Medical Problems 
1. ___ esophagus: continue PPI

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
<2grams/day   
2.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Transaminitis, cholestasis
h/o ampullary stenosis
GERD, ___ esophagus 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for monitoring after your ERCP (endoscopic 
retrograde cholangiopancreatography) procedure.  This procedure 
was relatively normal without an explanation for your 
intermittent abdominal pain. Please follow up with your PCP for 
further monitoring.  

It was a pleasure taking care of you.
-Your ___ team 
 
Followup Instructions:
___